US08003806B2
3-(1H-Benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoic acid
A solution of ethyl 3-(1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoate (276 mg, 746 μmol) in hydrochloric acid (50 mL of a 5N solution) was stirred at room temperature for 12 hours. Acetonitrile (I mL) was then added, and stirring continued for 110 hours. The solution was warmed to reflux for 24 hours and was then cooled to room temperature and evaporated in vacuo. The residue was taken up into aqueous sodium carbonate and the resulting solution extracted with diethyl ether. The aqueous phase was acidified with dilute hydrochloric acid (pH<4), and re-extracted with dichloromethane. The combined dichloromethane extracts were evaporated in vacuo, and the residue was recrystallized from methanol to afford the title compound, [LCMS (Method A, Mobile Phase I) RT=4.66 min, MH+ 343].

reactant | ethyl 3-(1H-benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoate | 746 μmol, 276 mg | N1(C=NC2=C1C=CC=C2)C(CC(=O)OCC)C2=CC=C(C=C2)C2=CC=CC=C2 | C24H22N2O2
reactant | Acetonitrile | C(C)#N | C2H3N
solvent | hydrochloric acid | Cl | ClH
product | 3-(1H-Benzimidazol-1-yl)-3-(1,1′-biphenyl)-4-ylpropanoic acid | N1(C=NC2=C1C=CC=C2)C(CC(=O)O)C2=CC=C(C=C2)C2=CC=CC=C2 | C22H18N2O2
